US09085517B2
4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoic acid
To a solution of ethyl 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoate (Preparation 17, 350 mg, 0.98 mmol) in methanol (8.0 mL) was added water (2 mL) followed by sodium hydroxide (400 mg, 9.8 mmol). The reaction mixture was heated to 55° C. for 3 hours, then cooled and diluted with EtOAc (50 mL) and 2M HCl (50 mL). The aqueous layer was separated and washed with EtOAc (2×50 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to yield a white solid as the title compound (276 mg, 86%).

reactant | ethyl 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoate | 0.98 mmol, 350 mg | ClC1=C(C=C(OCC2=CC=C(C(=O)OCC)C=C2)C=C1)C(F)(F)F | C17H14ClF3O3
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 9.8 mmol, 400 mg | [OH-].[Na+]
solvent | methanol | 8.0 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 2M, 50 mL | Cl | ClH
product | 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoic acid | 276 mg, 86% | ClC1=C(C=C(OCC2=CC=C(C(=O)O)C=C2)C=C1)C(F)(F)F | C15H10ClF3O3
